US06852732B2
In a mixed solvent of 85% potassium hydroxide (1.3 g) and water (1.4 mL)-ethanol (8 mL), 8-(2,4-dichlorophenyl)-2-methyl-4-(4-ethoxycarbonyl-methylidenepiperidin-1-yl)quinoline (2.3 g) was stirred at 80° C. for 1 hour. The reaction mixture was neutralized with 3 M hydrochloric acid under ice-cooling and stirred under ice-cooling for 2 hours and then at room temperature for 30 minutes. The solid precipitated was collected by filtration to obtain a mixture (1.5 g) of 2-{1-[8-(2,4-dichlorophenyl)-2-methylquinolin-4-yl]-piperidin-4-ylidene}acetic acid and 2-{1-[8-(2,4-dichlorophenyl)-2-methylquinolin-4-yl]-1,2,3,6-tetrahydropyridin-4-yl}acetic acid.

reactant | potassium hydroxide | 1.3 g | [OH-].[K+]
reactant | water | 1.4 mL | O | H2O
reactant | 8-(2,4-dichlorophenyl)-2-methyl-4-(4-ethoxycarbonyl-methylidenepiperidin-1-yl)quinoline | 2.3 g | ClC1=C(C=CC(=C1)Cl)C=1C=CC=C2C(=CC(=NC12)C)N1C(CC(CC1)C(=O)OCC)=C | C25H24Cl2N2O2
reactant | hydrochloric acid | 3 M | Cl | ClH
reactant | ethanol | 8 mL | C(C)O | C2H6O
product | 2-{1-[8-(2,4-dichlorophenyl)-2-methylquinolin-4-yl]-piperidin-4-ylidene}acetic acid | 1.5 g | ClC1=C(C=CC(=C1)Cl)C=1C=CC=C2C(=CC(=NC12)C)N1CCC(CC1)=CC(=O)O | C23H20Cl2N2O2
